US04698352
In 20 ml of methanol were dissolved 1.6 g of benzo[b]thiophene-2-aldehyde and 5.1 g of [2-methoxy-3-(methoxycarbonyl)allyl]triphenylphosphonium bromide, and to this solution was added dropwise 2.1 g of a 28% by weight solution of sodium methoxide in methanol with stirring at room temperature over 10 minutes. This mixture was further reacted at the same temperature for 20 minutes, and the solvent was then removed by distillation under reduced pressure. To the residue was added 20 ml of water, and the resulting mixture was extracted with 20 ml of chloroform. The extract was dried with anhydrous magnesium sulfate and the solvent was removed by distillation under reduced pressure. The residue was purified by a column chromatography (Wako Silica Gel C-200; eluent: benzene/n-hexane (3:1 by volume) mixture) to obtain an oily substance. This oily substance was dissolved in 12 ml of dioxane, and to the resulting solution was added 12 ml of 0.1N sulfuric acid. The resulting mixture was subjected to reaction at 100° C. for 1.5 hours. This reaction mixture was then cooled to room temperature and 20 ml of water was added thereto, after which the precipitated crystals were collected by filtration. These crystals were washed with water and then dried to obtain 1.1 g of methyl 5-(2-benzo-[b]thienyl)-3-oxo-4-pentenoate having a melting point of 105°-107° C.

reactant | benzo[b]thiophene-2-aldehyde | 1.6 g | S1C2=C(C=C1C=O)C=CC=C2 | C9H6OS
reactant | [2-methoxy-3-(methoxycarbonyl)allyl]triphenylphosphonium bromide | 5.1 g | [Br-].COC(C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=CC(=O)OC
reactant | sodium methoxide | C[O-].[Na+]
reactant | sulfuric acid | 0.1N, 12 ml | S(O)(O)(=O)=O | H2O4S
solvent | methanol | 20 ml | CO | CH4O
solvent | dioxane | 12 ml | O1CCOCC1 | C4H8O2
solvent | water | 20 ml | O | H2O
product | methyl 5-(2-benzo-[b]thienyl)-3-oxo-4-pentenoate | 1.1 g | S1C2=C(C=C1C=CC(CC(=O)OC)=O)C=CC=C2 | C14H12O3S
